US04065563
3-(2-Furyl)-5-(4-nitrophenyl)-1,2,4-oxadiazole
To a solution of 2-furanamidoxime (12.6 g, 0.1 mole) and p-nitrobenzoyl chloride (18.1 g, 0.1 mole) in 500 ml of dry dioxane, 1 ml of BF3 -ethyl ether is added and the mixture is heated to reflux for 16 hours. Evaporation of the solvent in vacuo gives a light brown solid. It is decolorized with Darco (CHCl3) and crystallized from ethanol-acetonitrile to give 19.2 g (75%) of product, m.p. 168°-170°.

reactant | 2-furanamidoxime | 0.1 mole, 12.6 g | O1C(=CC=C1)C(N)=NO | C5H6N2O2
reactant | p-nitrobenzoyl chloride | 0.1 mole, 18.1 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | Darco | C | CH4
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
solvent | BF3 ethyl ether | 1 ml | B(F)(F)F.C(C)OCC
product | 3-(2-Furyl)-5-(4-nitrophenyl)-1,2,4-oxadiazole | 19.2 g, 75% | O1C(=CC=C1)C1=NOC(=N1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H7N3O4
